US03950528
3-Amino-1-(2,5-dimethylbenzyl)-pyrazol-5-one ##SPC24##
26.6 g of 2,5-dimethylbenzylhydrazine were added dropwise to a solution of 28.2 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1 g of p-toluenesulphonic acid in 130 ml of ethanol, in the course of which the temperature rose from 25 to 35°C. After stirring overnight, the compound identified above separated out, and was filtered off and recrystallised from ethanol. Melting point: 124°, 20 g (52%).

reactant | 2,5-dimethylbenzylhydrazine | 26.6 g | CC1=C(CNN)C=C(C=C1)C | C9H14N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 28.2 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 3-Amino-1-(2,5-dimethylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=CC(=C1)C)C | C12H15N3O
